US09371282B2
n-Butyllithium (2.5 M in hexanes, 28 mL, 70 mmol) is added dropwise to diisopropylamine (10 mL, 70 mmol) in THF (100 mL) at −78° C. After 1 h at −78° C. and 15 min at 0° C. the reaction mixture is cooled to −50° C. and N-tert-butyl-4-chloro-3-methyl-pyridine-2-carboxamide (5.7 g, 25 mmol) in THF (50 mL) is added dropwise and stirring is continued for 30 min at −40° C. Methyl acetate (2.2 mL, 28 mmol) is added and stirring is continued for 30 min at −40° C. Saturated NH4Cl (2 mL), water (6 mL) and ethyl acetate are added and the organic layer is separated, dried and evaporated under reduce pressure to give a residue that is purified by flash chromatography (eluent 0-10% EtOAc/cyclohexane) to furnish 4-chloro-3-(2-oxo-propyl)-pyridine-2-carboxylic acid tert-butylamide (3.7 g, 55%).

reactant | n-Butyllithium | 70 mmol, 2.5 M, 28 mL | C(CCC)[Li]
reactant | diisopropylamine | 70 mmol, 10 mL | C(C)(C)NC(C)C | C6H15N
reactant | N-tert-butyl-4-chloro-3-methyl-pyridine-2-carboxamide | 25 mmol, 5.7 g | C(C)(C)(C)NC(=O)C1=NC=CC(=C1C)Cl | C11H15ClN2O
reactant | Methyl acetate | 28 mmol, 2.2 mL | C(C)(=O)OC | C3H6O2
reactant | NH4Cl | 2 mL | [NH4+].[Cl-]
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | 6 mL | O | H2O
product | 4-chloro-3-(2-oxo-propyl)-pyridine-2-carboxylic acid tert-butylamide | 3.7 g, 55% | C(C)(C)(C)NC(=O)C1=NC=CC(=C1CC(C)=O)Cl | C13H17ClN2O2
